US05250540
2-Phthalimidomethyl-2,3-dihydropyrano(2,3-b)pyridine
15.0 g (70 mmol) of a mixture of the compounds from Example V and VI (ratio 12:5) are heated at 100° C. with 16.0 g (86 mmol) of potassium phthalimide in 150 ml of dimethylformamide under nitrogen with stirring for 20 hours. Dimethylformamide is then distilled off in vacuo and the residue is partitioned between dichloromethane and water. 24.0 g of crystals having a melting range of 152°-158° C. are obtained.

reactant | potassium phthalimide | 86 mmol, 16.0 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 2-Phthalimidomethyl-2,3-dihydropyrano(2,3-b)pyridine | C1(C=2C(C(N1CC1CCC=3C(=NC=CC3)O1)=O)=CC=CC2)=O | C17H14N2O3
